US07723455B2
A 3.1 Preparation of 2,7-dibromo-9,10-dimethoxy-9-methyl-10-p-tolyl-9,10-dihydro-phenanthrene (EM6)
4.52 g (113 mmol) of NaH as a 60% strength dispersion in mineral oil were placed in a dry apparatus, 40 ml of dry DMSO were added, 36.8 g (75.4 mmol) of 2,7-dibromo-10-methoxy-10-methyl-9-p-tolyl-9,10-dihydrophenanthren-9-ol in 100 ml of dry DMSO were subsequently added dropwise and the mixture was stirred at RT for 30 minutes. 7 ml (113 mmol) of Mel were then added dropwise over a period of 1 hour while cooling in ice and the mixture was stirred at RT for 1 hour. To work up the mixture, it was cooled to 5° C., 150 ml of 15% NH4OH were added dropwise, the precipitate was filtered off with suction, washed twice with water and twice with MeOH. To purify it further, it was recrystallized four times from EtOH/toluene. This left 16.7 g (44%) of colorless crystals having a purity determined by RP-HPLC of 99.90%.

reactant | NaH | 113 mmol, 4.52 g | [H-].[Na+]
reactant | 2,7-dibromo-10-methoxy-10-methyl-9-p-tolyl-9,10-dihydrophenanthren-9-ol | 75.4 mmol, 36.8 g | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)(O)C1=CC=C(C=C1)C)(C)OC | C23H20Br2O2
reactant | NH4OH | 150 ml | [NH4+].[OH-]
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 2,7-dibromo-9,10-dimethoxy-9-methyl-10-p-tolyl-9,10-dihydro-phenanthrene | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)(C)OC)(C1=CC=C(C=C1)C)OC | C24H22Br2O2
